US08048909B2
Ethyl 4-fluoro-5-phenyl-1H-pyrrole-3-carboxylate
To a solution (30 mL) of ethyl 2-chloro-4-fluoro-5-phenyl-1H-pyrrole-3-carboxylate (300 mg) in ethanol was added 10% palladium carbon (50% water-containing product, 0.3 g), and the mixture was stirred under a hydrogen atmosphere at room temperature for 24 hr. The reaction mixture was filtrated, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=4:1) to give the title compound as a colorless oil (yield 100 mg, 38%).

reactant | ethyl 2-chloro-4-fluoro-5-phenyl-1H-pyrrole-3-carboxylate | 30 mL, 300 mg | ClC=1NC(=C(C1C(=O)OCC)F)C1=CC=CC=C1 | C13H11ClFNO2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium carbon | 0.3 g | [C].[Pd]
product | Ethyl 4-fluoro-5-phenyl-1H-pyrrole-3-carboxylate | yield 100 mg, 38% | FC=1C(=CNC1C1=CC=CC=C1)C(=O)OCC | C13H12FNO2
